US06921759B2
N-(4-fluorobenzyl)-8-hydroxy-5-(4-methyl-3-oxopiperazin-1-yl)-1,6-naphthyridine-7-carboxamide
A solution of 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide (0.20 g, 0.53 mmol), 1-methylpiperazin-2-one (0.21 g, 1.86 mmol) and diisopropylethylamine (0.19 mL, 1.06 mmol) in DMPU (2.0 mL) were heated at 135 C for 26 hr. Diisopropylethylamine (0.19 mL, 1.06 mmol) was added and the reaction heated at 135C for a further 24 hr. The reaction was cooled to room temperature, neutralized by the addition of TFA and purified by reverse phase HPLC. (Vydak C18, Gradient elution with Water:Acetonitrile 95:5 to 5:95 with 0.1% TFA at 30 mL/min over 15 mins). Lyophilization of the pure fractions afforded the title compound as an off white solid.

reactant | 5-bromo-N-(4-fluorobenzyl)-8-hydroxy-1,6-naphthyridine-7-carboxamide | 0.53 mmol, 0.20 g | BrC1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O | C16H11BrFN3O2
reactant | 1-methylpiperazin-2-one | 1.86 mmol, 0.21 g | CN1C(CNCC1)=O | C5H10N2O
reactant | diisopropylethylamine | 1.06 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Diisopropylethylamine | 1.06 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMPU | 2.0 mL | CN1CCCN(C1=O)C | C6H12N2O
product | N-(4-fluorobenzyl)-8-hydroxy-5-(4-methyl-3-oxopiperazin-1-yl)-1,6-naphthyridine-7-carboxamide | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2O)N2CC(N(CC2)C)=O)C=C1 | C21H20FN5O3
